US09234109B2
2-Tert-butyl pentadecylphenol is prepared as disclosed in Fuel, 82 (2003), the disclosure of which is totally incorporated herein by reference. More specifically, hydrogenated cardanol (0.84 mol) is added to a three-neck round bottom flask containing AlCl3 (0.15 mol) and the system is cooled to a temperature between 0 and 5° C. Tert-butyl chloride (0.25 mol) is then slowly added from a dropping funnel with constant stirring over 4 hours. The formation of the product is monitored by thin layer chromatography (TLC). Thereafter, crushed ice and water are added to the mixture to allow thorough decomposition of intermediate compounds. Separation of two distinct phases is observed, one of the phases turning into a very viscous dark oil. After phase separation, the mixture is distilled under reduced pressure and the product collected and dried with anhydrous Na2SO4. The product is then purified through a silica gel chromatographic column using solutions of CHCl3 and n-hexane of several compositions from 0 to 100% as eluents to yield a compound of the formula

reactant | cardanol | 0.84 mol | C=CC/C=C\C/C=C\CCCCCCCC1=CC=CC(=C1)O | C21H30O
reactant | AlCl3 | 0.15 mol | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | Tert-butyl chloride | 0.25 mol | C(C)(C)(C)Cl | C4H9Cl
reactant | water | O | H2O
product | 2-Tert-butyl pentadecylphenol | C(C)(C)(C)C(CC1=C(C=CC=C1)O)CCCCCCCCCCCCC | C25H44O
